US08859569B2
2-[6-Chloro-3-(2,3,6-trifluorobenzyl)imidazo[1,5-a]pyridin-1-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
556 mg (1.176 mmol) of 4-amino-2-[6-chloro-3-(2,3,6-trifluorobenzyl)imidazo[1,5-a]pyridin-1-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one (described in WO 2010/065275) was put in 1,2-dimethoxyethane (14 ml), and 305 mg (1.176 mmol) of caesium iodide, 149 mg (0.588 mmol) of iodine and 67 mg (0.353 mmol) of copper(I) iodide were added at room temperature. Then isopentyl nitrite (0.933 ml) was added and it was heated overnight to 60° C. Next day, 305 mg (1.176 mmol) of caesium iodide, 149 mg (0.588 mmol) of iodine and 67 mg (0.353 mmol) of copper(I) iodide, and isopentyl nitrite (0.933 ml) were added again and it was heated for 3 days to 60° C. After cooling, it was combined with a smaller batch (starting from 50 mg 4-amino-2-[6-chloro-3-(2,3,6-trifluorobenzyl)imidazo[1,5-a]pyridin-1-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one). It was extracted with ethyl acetate and saturated aqueous sodium thiosulphate and the phases were separated. The organic phase was extracted twice more with saturated aqueous sodium thiosulphate. Then the organic phase was washed with saturated aqueous sodium chloride solution, dried over sodium sulphate, filtered, concentrated by evaporation and the residue was purified by preparative HPLC (acetonitrile:water (+0.05% formic acid) gradient). 236 mg of the title compound was obtained (31% of theor.).

reactant | 4-amino-2-[6-chloro-3-(2,3,6-trifluorobenzyl)imidazo[1,5-a]pyridin-1-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 1.176 mmol, 556 mg | NC=1C2=C(N=C(N1)C=1N=C(N3C1C=CC(=C3)Cl)CC3=C(C(=CC=C3F)F)F)NC(C2(C)C)=O | C22H16ClF3N6O
reactant | caesium iodide | 1.176 mmol, 305 mg | [I-].[Cs+]
reactant | iodine | 0.588 mmol, 149 mg | II | I2
reactant | isopentyl nitrite | 0.933 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | caesium iodide | 1.176 mmol, 305 mg | [I-].[Cs+]
reactant | iodine | 0.588 mmol, 149 mg | II | I2
reactant | isopentyl nitrite | 0.933 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | 4-amino-2-[6-chloro-3-(2,3,6-trifluorobenzyl)imidazo[1,5-a]pyridin-1-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 50 mg | NC=1C2=C(N=C(N1)C=1N=C(N3C1C=CC(=C3)Cl)CC3=C(C(=CC=C3F)F)F)NC(C2(C)C)=O | C22H16ClF3N6O
solvent | 1,2-dimethoxyethane | 14 ml | COCCOC | C4H10O2
catalyst | copper(I) iodide | 0.353 mmol, 67 mg | [Cu]I
catalyst | copper(I) iodide | 0.353 mmol, 67 mg | [Cu]I
product | 2-[6-Chloro-3-(2,3,6-trifluorobenzyl)imidazo[1,5-a]pyridin-1-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 236 mg | ClC=1C=CC=2N(C1)C(=NC2C=2N=C(C1=C(N2)NC(C1(C)C)=O)I)CC1=C(C(=CC=C1F)F)F | C22H14ClF3IN5O
